US07151096B2
A mixture of N-[3-ethoxycarbonyl-phenyl]-4-(2-chloro-4-pyridyl)-2-pyrimidineamine (860 mg, 2.43 mmol), lithium hydroxide (233 mg, 9.70 mmol) in ethanol (20 mL) and water (5 mL) is heated to reflux for 1 hour before cooling to room temperature. The mixture is concentrated, dissolved in water and acidified with 10% hydrochloric acid. The solid is collected by filtration and washed with water, methanol and dried to give N-[3-carboxy-phenyl]-4-(2-chloro-4-pyridyl)-2-pyrimidineamine (760 mg); ESI-MS (m/z): 327.0 (M++H).

reactant | N-[3-ethoxycarbonyl-phenyl]-4-(2-chloro-4-pyridyl)-2-pyrimidineamine | 2.43 mmol, 860 mg | C(C)OC(=O)C=1C=C(C=CC1)NC1=NC=CC(=N1)C1=CC(=NC=C1)Cl | C18H15ClN4O2
reactant | lithium hydroxide | 9.70 mmol, 233 mg | [OH-].[Li+]
solvent | ethanol | 20 mL | C(C)O | C2H6O
solvent | water | 5 mL | O | H2O
product | N-[3-carboxy-phenyl]-4-(2-chloro-4-pyridyl)-2-pyrimidineamine | 760 mg | C(=O)(O)C=1C=C(C=CC1)NC1=NC=CC(=N1)C1=CC(=NC=C1)Cl | C16H11ClN4O2
